US08610345B2
3 g of 2-(4-methylphenyl)nitrobenzene and 20 m of triethyl phosphate were heated and stirred at 160° C. for 6 hours. After triethyl phosphate was distilled off under reduced pressure, 10 ml of methanol was added, followed by filtration. The resulting solid was vacuum-dried to obtain 1.5 g of 2-methylcarbazole.

reactant | 2-(4-methylphenyl)nitrobenzene | 3 g | CC1=CC=C(C=C1)C1=C(C=CC=C1)[N+](=O)[O-] | C13H11NO2
reactant | triethyl phosphate | P(=O)(OCC)(OCC)OCC | C6H15O4P
product | 2-methylcarbazole | 1.5 g | CC1=CC=2NC3=CC=CC=C3C2C=C1 | C13H11N
